US08669266B2
(iv) 4-{(S)-2-[(4-Benzyloxycarbonylmethoxy-quinoline-2-carbonyl)-amino]-4-tert-butoxycarbonyl-butyryl}-piperazine-1-carboxylic acid ethyl ester
To a solution of 6.2 g of 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester 80 ml of DMF, 4.3 g of cesium carbonate and 2.5 g of Bromo-acetic acid benzyl ester was added and stirred for 2 h. Then, the reaction mixture was diluted with water and extracted with ethyl acetate (3×150 ml). The combined organic phases were dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 4.4 g.

reactant | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 80 ml, 6.2 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)O)=O | C26H34N4O7
reactant | DMF | CN(C)C=O | C3H7NO
reactant | cesium carbonate | 4.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Bromo-acetic acid benzyl ester | 2.5 g | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
solvent | water | O | H2O
product | 4-{(S)-2-[(4-Benzyloxycarbonylmethoxy-quinoline-2-carbonyl)-amino]-4-tert-butoxycarbonyl-butyryl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)OCC1=CC=CC=C1)=O | C35H42N4O9
